US04243807
A mixture of 37.0 g (0.25 mole) of 4-hydroxymethylpyridine hydrochloride and 150 ml of thionyl chloride is heated under reflux for 2 hours. After cooling, 250 ml of benzene are added to the reaction mixture, followed by filtering and washing the precipitate with benzene. There are obtained 32.0 g of 4-chloromethylpyridine hydrochloride (76% of theory); m.p. 171-172° C.

reactant | 4-hydroxymethylpyridine hydrochloride | 0.25 mole, 37.0 g | Cl.OCC1=CC=NC=C1
reactant | thionyl chloride | 150 ml | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 250 ml | C1=CC=CC=C1 | C6H6
product | 4-chloromethylpyridine hydrochloride | 32.0 g, 76% | Cl.ClCC1=CC=NC=C1 | InChI=1S/C6H6ClN.ClH/c7-5-6-1-3-8-4-2-6;/h1-4H,5H2;1H
